US08859566B2
A mixture of 8-(4-benzyloxy-phenyl)-2-chloro-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one (50.0 mg, 0.96 mmol), 3-Trifluoromethyl phenyl boronic acid (31.0 mg, 1.4 mmol) were taken in THF (5 ml) and degassed for 10 minutes. To above degassed solution NaHCO3 (20.0 mg, 0.24 mmol) in water (1 ml) and Pd(PPh3)4 were added and degassed for another 20 minutes. The reaction mixture was stirred for 28 hours at 80-90° C. The mixture was cooled to 25-27° C. and diluted with water (5 ml). The aqueous layer was extracted with DCM (3×5 ml). The organic layer was washed with brine (2×10 ml), dried over Na2SO4, and the solvent was evaporated. The residue obtained was purified by preparative TLC (35% Ethyl acetate in hexane) to obtain pure 8-(4-Benzyloxy-phenyl)-1-propyl-2-(3-trifluoromethyl-phenyl)-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one (68 mg, quantitative) as a yellow solid.

reactant | 8-(4-benzyloxy-phenyl)-2-chloro-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 0.96 mmol, 50.0 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NC=2N=C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)Cl | C27H33ClN4O3Si
reactant | 3-Trifluoromethyl phenyl boronic acid | 1.4 mmol, 31.0 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | NaHCO3 | 0.24 mmol, 20.0 mg | C(=O)(O)[O-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
solvent | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-(4-Benzyloxy-phenyl)-1-propyl-2-(3-trifluoromethyl-phenyl)-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 68 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NC=2N=C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)C1=CC(=CC=C1)C(F)(F)F | C34H37F3N4O3Si
